US08895582B2
To a solution of (S)-2-(tert-butoxycarbonyl(methyl)amino)-6-methoxy-6-oxohexyl 1H-imidazole-1-carboxylate (2 g, 5.4 mmol) in DCM (10 mL) was added a solution of triethyloxonium hexafluorophosphate (1.61 g, 6.5 mmol, 1.2 equiv.) in DCM (5 mL) dropwise at 0° C. The solution was warmed up to RT and stirred for 15 min. A solution of isoquinolin-3-amine (0.94 g, 6.5 mmol, 1.2 equiv.) in DCM (5 mL) was added. The solution was stirred for overnight. DCM was removed and the residue was purified on RP-HPLC using a mixture of acetonitrile and H2O to give (S)-methyl 5-(tert-butoxycarbonyl(methyl)amino)-6-(isoquinolin-3-ylcarbamoyloxy)hexanoate (1.4 g, 58%). LRMS (M+H+) m/z 446.2.

reactant | (S)-2-(tert-butoxycarbonyl(methyl)amino)-6-methoxy-6-oxohexyl 1H-imidazole-1-carboxylate | 5.4 mmol, 2 g | N1(C=NC=C1)C(=O)OC[C@H](CCCC(=O)OC)N(C)C(=O)OC(C)(C)C | C17H27N3O6
reactant | triethyloxonium hexafluorophosphate | 6.5 mmol, 1.61 g, 1.2 equiv. | F[P-](F)(F)(F)(F)F.C(C)[O+](CC)CC
reactant | isoquinolin-3-amine | 6.5 mmol, 0.94 g, 1.2 equiv. | C1=NC(=CC2=CC=CC=C12)N | C9H8N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 5-(tert-butoxycarbonyl(methyl)amino)-6-(isoquinolin-3-ylcarbamoyloxy)hexanoate | 1.4 g, 58% | C(C)(C)(C)OC(=O)N([C@@H](CCCC(=O)OC)COC(NC=1N=CC2=CC=CC=C2C1)=O)C | C23H31N3O6
